US07960369B2
3-(2-methyl-1-naphthyl)benzaldehyde
1-Bromo-2-methylnaphthalene (3.32 g, 15.0 mmol) and (3-formylphenyl)boronic acid (2.13 g, 15.0 mmol) was dissolved in a mixture of 1 M sodium carbonate aqueous solution (30 mL), ethanol (15 mL) and toluene (30 mL) and, after argon substitution, tetrakis(triphenylphosphine)palladium (0) (0.867 g, 0.750 mmol) was added. The reaction mixture was stirred under an argon atmosphere at 80° C. for 24 hrs. The reaction mixture was cooled, diluted with water and ethyl acetate, and the insoluble material was filtered through celite. The organic layer of the filtrate was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane-20% ethyl acetate/hexane) to give the title compound (2.39 g, yield 65%) as a pale-yellow oil.

reactant | 1-Bromo-2-methylnaphthalene | 15.0 mmol, 3.32 g | BrC1=C(C=CC2=CC=CC=C12)C | C11H9Br
reactant | (3-formylphenyl)boronic acid | 15.0 mmol, 2.13 g | C(=O)C=1C=C(C=CC1)B(O)O | C7H7BO3
solvent | sodium carbonate | 1 M, 30 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 15 mL | C(C)O | C2H6O
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.750 mmol, 0.867 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(2-methyl-1-naphthyl)benzaldehyde | 2.39 g, yield 65% | CC1=C(C2=CC=CC=C2C=C1)C=1C=C(C=O)C=CC1 | C18H14O
